US08486970B2
To a mixed liquid of 280 mg of (3RS,4RS)—N-({3-[amino(hydroxyimino)methyl]benzyl}oxy)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide and 10 ml of DMF were added 0.037 ml of pyridine and subsequently 0.084 ml of 2-ethylhexyl chloroformate under ice-cooling, followed by stirring under ice-cooling for 30 minutes. To the reaction solution was added ethyl acetate, followed by washing with water and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to obtain 305 mg of (3RS,4RS)—N-[(3-{amino[({[(2-ethyl hexyl)oxy]carbonyl}oxy)imino]methyl}benzyl)oxy]-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white amorphous substance. To 290 mg of the present compound was added 6 ml of NMP, followed by stirring at 140° C. for 3 hours. The reaction solution was cooled, and 50 ml of water was then added thereto, followed by stirring. The precipitated solid was collected by filtration. This solid was purified by silica gel column chromatography (eluent: chloroform-methanol), then crystallized with acetonitrile-water, and collected by filtration to obtain 101 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-N-{[3-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)benzyl]oxy}-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white crystal.

reactant | (3RS,4RS)—N-({3-[amino(hydroxyimino)methyl]benzyl}oxy)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 280 mg | NC(C=1C=C(CONC(=O)C2C(N(C(C3=CC=CC=C23)=O)C2C(CCCC2)NS(=O)(=O)C)C2=C(C=C(C=C2)Cl)Cl)C=CC1)=NO | C31H33Cl2N5O6S
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | pyridine | 0.037 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-ethylhexyl chloroformate | 0.084 ml | ClC(=O)OCC(CCCC)CC | C9H17ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3RS,4RS)—N-[(3-{amino[({[(2-ethyl hexyl)oxy]carbonyl}oxy)imino]methyl}benzyl)oxy]-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 305 mg | NC(C=1C=C(CONC(=O)C2C(N(C(C3=CC=CC=C23)=O)C2C(CCCC2)NS(=O)(=O)C)C2=C(C=C(C=C2)Cl)Cl)C=CC1)=NOC(=O)OCC(CCCC)CC | C40H49Cl2N5O8S
